US08017601B2
(1) N-(6-hydroxynaphthalen-2-yl)-4-methoxybenzamide
To a 100 mL round-bottomed flask containing 6-aminonaphthalen-2-ol (0.600 g, 3.8 mmol), in DCM (10 mL), was added p-Anisoyl chloride (0.972 g, 5.7 mmol), along with K2CO3 (1.57 g, 11.4 mmol). The mixture was stirred at ambient temperature overnight and was diluted with DCM and H2., Extraction with DCM (3×10 mL), drying of the organics over sodium sulfate, filtration, and concentration in-vacuo afforded the crude product. Recrystallization of the crude from DCM/Hexanes gave a tan colored amorphous solid, after drying (0.300 g, 1.0 mmol). MS (ESI pos. ion) m/z: 294 (M+H). Calc'd Exact Mass for C18H15NO3: 293.

reactant | 6-aminonaphthalen-2-ol | 3.8 mmol, 0.600 g | NC=1C=C2C=CC(=CC2=CC1)O | C10H9NO
reactant | p-Anisoyl chloride | 5.7 mmol, 0.972 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | K2CO3 | 11.4 mmol, 1.57 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(6-hydroxynaphthalen-2-yl)-4-methoxybenzamide | OC=1C=C2C=CC(=CC2=CC1)NC(C1=CC=C(C=C1)OC)=O | C18H15NO3
